US08293798B2
(3-Chlorophenyl)methyl 2-chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoate
To a mixture of 2-chloro-5-hydroxybenzoic acid (500 mg, 2.9 mmol) in DMF (20 ml) were added potassium carbonate (1.0 g, 7.3 mmol, 2.5 eq) and 3-chlorobenzyl bromide (0.8 ml, 6.1 mmol, 2.1 eq). The mixture was heated at 60° C. for 2.5 hours. On cooling the mixture was diluted with ethyl acetate (300 ml) and washed with water (2×100 ml) then brine (70 ml). Organic layer dried and evaporated in vacuo. The residue was purified by column chromatography (Biotage SP4, 100 g silica column) eluting with 0-30% ethyl acetate in hexanes to afford the title compound as a clear oil (1.16 g). MS (ES+) m/z 421 [M+H]+ (C21H1535Cl3O3). 1H-NMR (400 MHz, d6-DMSO) δ 5.19 (2H,s), 5.35 (2H,s), 7.26 (1H,dd, J 8.8, J 3.2), 7.40-7.56 (10H,m).

reactant | 2-chloro-5-hydroxybenzoic acid | 2.9 mmol, 500 mg | ClC1=C(C(=O)O)C=C(C=C1)O | C7H5ClO3
reactant | potassium carbonate | 7.3 mmol, 1.0 g, 2.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chlorobenzyl bromide | 6.1 mmol, 0.8 ml, 2.1 eq | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | (3-Chlorophenyl)methyl 2-chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoate | 1.16 g | ClC1=C(C(=O)OCC2=CC(=CC=C2)Cl)C=C(C=C1)OCC1=CC(=CC=C1)Cl | C21H15Cl3O3
